US08669271B2
4-[5-Chloro-2-(4-methanesulfonyl-phenyl)-pyrimidin-4-ylethynyl]-piperidine-1-carboxylic acid tert-butyl ester
The title compound is prepared from 4-(2,5-dichloro-pyrimidin-4-ylethynyl)-piperidine-1-carboxylic acid tert-butyl ester and 4-(methanesulfonyl)phenylboronic acid following a procedure analogous to that described for Intermediate 14. LC (method 7): tR=1.58 min; Mass spectrum (ESI+): m/z=476 [M+H]+.

reactant | 4-(2,5-dichloro-pyrimidin-4-ylethynyl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C#CC1=NC(=NC=C1Cl)Cl | C16H19Cl2N3O2
reactant | 4-(methanesulfonyl)phenylboronic acid | CS(=O)(=O)C1=CC=C(C=C1)B(O)O | C7H9BO4S
product | 4-[5-Chloro-2-(4-methanesulfonyl-phenyl)-pyrimidin-4-ylethynyl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C#CC1=NC(=NC=C1Cl)C1=CC=C(C=C1)S(=O)(=O)C | C23H26ClN3O4S
